US05439925
(c) Allyl 4-[(5,6,7,8 -tetrahydro5,5,8,8tetramethyl -2-naphthylmethylthio)carbonyl]benzoate
In a manner similar to Example 4(c), by reaction of 2 g (10 mmol) of 4-(allyloxycarbonyl)benzoic acid with 2.34 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylmethanethiol, 3.4 g (81%) of the expected allyl ester, melting point 79°-80° C., are obtained.

reactant | 4-(allyloxycarbonyl)benzoic acid | 10 mmol, 2 g | C(C=C)OC(=O)C1=CC=C(C(=O)O)C=C1 | C11H10O4
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylmethanethiol | 10 mmol, 2.34 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CS)C | C15H22S
product | Allyl 4-[(5,6,7,8 -tetrahydro5,5,8,8tetramethyl -2-naphthylmethylthio)carbonyl]benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)CSC(=O)C1=CC=C(C(=O)OCC=C)C=C1)C | C26H30O3S
